US05132423
A mixture of 56.9 grams (200 mmol.) of tetra-n-butylurea, 32.2 grams (210 mmol.) of phosphorus oxychloride and 75 ml. of acetonitrile was heated at 75° C. in a nitrogen atmosphere for one hour. The mixture was then cooled to 0° C. and 33.6 grams (460 mmol.) of n-butylamine was added over 15 minutes with stirring, whereupon a soft, fluffy precipitate formed. The mixture was warmed to 60° C. for one hour and again cooled to 0° C., quenched with 50 ml. of 25% (by weight) aqueous sodium hydroxide solution and extracted with ether. The ether extracts were dried over magnesium sulfate, filtered and stripped to give a pale yellow oil which, upon distillation, yielded 56.32 grams (83% of theoretical) of penta-n-butylguanidine.

reactant | tetra-n-butylurea | 200 mmol, 56.9 grams | C(CCC)N(C(N(CCCC)CCCC)=O)CCCC | C17H36N2O
reactant | phosphorus oxychloride | 210 mmol, 32.2 grams | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | n-butylamine | 460 mmol, 33.6 grams | C(CCC)N | C4H11N
solvent | acetonitrile | C(C)#N | C2H3N
product | penta-n-butylguanidine | 56.32 grams, 83% | C(CCC)N(C(N(CCCC)CCCC)=NCCCC)CCCC | C21H45N3
